US06043242
4. 6-{3-[3-Methyl-2-(pyrimidin-2-ylsulfanylmethyl)-pyridin-4-ylsulfanyl]propyisulfanyl)3-nitro-imidazo[1,2-b]pyridazine
A suspension of 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine (1.23 g, 3.0 mmol), 2-mercaptopyrimidine (330 mg, 2.9 mmol) and triethylamine (335 mg, 3.3 mmol) in isopropanol (100 ml) is heated under reflux for 4.5 h. After cooling, the suspension is stirred at room temperature for a further 18 h and then at 0° C. for 0.5 h. The precipitate is filtered off, washed with isopropanol and dried at 40° C. in vacuo. The crystalline solid is then suspended in water (50 ml) and sodium carbonate solution (10 ml). After filtration and drying in vacuo at 40° C., the title compound is isolated as a pale beige solid. Yield 1.40 g (93%), m.p. 143-147° C.

reactant | 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine | 3.0 mmol, 1.23 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
reactant | 2-mercaptopyrimidine | 2.9 mmol, 330 mg | SC1=NC=CC=N1 | C4H4N2S
reactant | triethylamine | 3.3 mmol, 335 mg | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 6-{3-[3-Methyl-2-(pyrimidin-2-ylsulfanylmethyl)-pyridin-4-ylsulfanyl]propyisulfanyl)3-nitro-imidazo[1,2-b]pyridazine | CC=1C(=NC=CC1SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])CSC2=NC=CC=N2 | C20H19N7O2S3
